US05602252
9-Ethyl-4-[(1-methylpiperdin-4-yl)amino]imidazo[5,1-h]pteridin-6(5H)-one
Prepared by treatment of 4,6-dichloro-5-nitropyrimidine with 1-methyl-4-(benzylamino)piperidine, followed by reaction with 2-ethylimidazole, reduction with tin (II) chloride, cyclization with carbonyldiimidazole and debenzylation with refluxing 6N HCl for 30 minutes.

reactant | 4,6-dichloro-5-nitropyrimidine | ClC1=NC=NC(=C1[N+](=O)[O-])Cl | C4HCl2N3O2
reactant | 1-methyl-4-(benzylamino)piperidine | CN1CCC(CC1)NCC1=CC=CC=C1 | C13H20N2
reactant | 2-ethylimidazole | C(C)C=1NC=CN1 | C5H8N2
reactant | tin (II) chloride | [Sn](Cl)Cl
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | HCl | 6N | Cl | ClH
product | 9-Ethyl-4-[(1-methylpiperdin-4-yl)amino]imidazo[5,1-h]pteridin-6(5H)-one | C(C)C1=NC=C2C(NC=3C(=NC=NC3N21)NC2CCN(CC2)C)=O | C16H21N7O
